US06376672B1
Preparation of 3-chloromethyl-1-methoxy-naphthalene
15.0 g (79.7 mmol) of (4-methoxy-naphthalen-2-yl)-methanol [Chem. Pharm. Bull. 19(6), 1245-1256 (1971)] were dissolved in 100 ml of dichloromethane, the solution treated with 20 ml of triethylamine, cooled to −5° C. and treated slowly with 9.3 ml (119.5 mmol) methanesulfonyl chloride. Then, the reaction mixture was stirred at room temperature for 23 hours, concentrated in a water-jet vacuum, redissolved in 80 ml of tetrahydrofuran, treated with 11.25 g of sodium hydrogen carbonate and stirred for another 2 hours. The suspension was then diluted with 500 ml of water and extracted three times with 300 ml of ethyl acetate, the organic phases were washed once with distilled water, then dried over magnesium sulphate, filtered and concentrated in a water-jet vacuum. The thus-obtained crude product was chromatographed on silica gel with pentane/dichloromethane (4/1). There were thus obtained 11.9 g (57.5 mmol), 72.5% 3-chloromethyl-1-methoxy-naphthalene as a colorless solid; MS: 206 (M)+.

reactant | (4-methoxy-naphthalen-2-yl)-methanol | 79.7 mmol, 15.0 g | COC1=CC(=CC2=CC=CC=C12)CO | C12H12O2
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 119.5 mmol, 9.3 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-chloromethyl-1-methoxy-naphthalene | ClCC=1C=C(C2=CC=CC=C2C1)OC | C12H11ClO
